US07781463B2
2-Benzoyl-4-benzyl-1,2,4-thiadiazolidine-3,5-dione (Compound 31)
Reagents: Benzyl isothiocyanate (0.86 ml, 6.5 mmol), 35% HCl (3.1 ml), KMnO4 (0.5 g), benzoyl isocyanate (0.81 ml, 6.5 mmol).

reactant | Benzyl isothiocyanate | 6.5 mmol, 0.86 ml | C(C1=CC=CC=C1)N=C=S | C8H7NS
reactant | HCl | 3.1 ml | Cl | ClH
reactant | KMnO4 | 0.5 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | benzoyl isocyanate | 6.5 mmol, 0.81 ml | C(C1=CC=CC=C1)(=O)N=C=O | C8H5NO2
product | 2-Benzoyl-4-benzyl-1,2,4-thiadiazolidine-3,5-dione | C(C1=CC=CC=C1)(=O)N1SC(N(C1=O)CC1=CC=CC=C1)=O | C16H12N2O3S
